US03932466
2-amino-4-oxo-4H-1-benzopyran-3-carboxamide.
-- A mixture of 1.5 g of 2-amino-4-oxo-4H-1-benzopyran-3-carbonitrile and 7 ml of 80% sulfuric acid is heated for 1 hour on the steam bath. The mixture is cooled, poured into water, and the solid filtered and recrystallized from ethanol, mp 264°-6°C.

reactant | 2-amino-4-oxo-4H-1-benzopyran-3-carbonitrile | 1.5 g | NC=1OC2=C(C(C1C#N)=O)C=CC=C2 | C10H6N2O2
reactant | sulfuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-amino-4-oxo-4H-1-benzopyran-3-carboxamide | NC=1OC2=C(C(C1C(=O)N)=O)C=CC=C2 | C10H8N2O3
